US07129233B2
(i) 6-Cyanonicotinic acid
To a solution of the nicotinic acid N-oxide (51 g, 0.37 mol) in 1.2 L of DMF, NaCN (54 g, 1.1 mol) was added, followed by triethylamine (255 mL, 1.83 mol) and TMSCl (185 mL). The reaction mixture was stirred at 110° C. for 10 h, filtered. and the filtrate was concentrated. The residue was dissolved in 100 mL of 2N HCl and extracted with methylene chloride. The organic layers were combined, concentrated and recrystallised from water to yield 12 g (22%) of the product.

reactant | nicotinic acid N-oxide | 0.37 mol, 51 g | C(C1=C[N+](=CC=C1)[O-])(=O)O | C6H5NO3
reactant | NaCN | 1.1 mol, 54 g | [C-]#N.[Na+]
reactant | triethylamine | 1.83 mol, 255 mL | C(C)N(CC)CC | C6H15N
reactant | TMSCl | 185 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
product | 6-Cyanonicotinic acid | 12 g, 22% | C(#N)C1=NC=C(C(=O)O)C=C1 | C7H4N2O2
